US08629137B2
7-methoxy-3-{1-[5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyridazin-3-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
0.13 g (0.049 mmol) 3-(1-{5-[hydroxy-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-yl)-methyl]-pyridazin-3-yl}-piperidin-4-yl)-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one and 1.0 g (12 mmol) manganese(IV)-oxide in 100 mL DCM were stirred overnight at RT. Then 500 mg manganese(IV)-oxide were added and the mixture was stirred for a further 20 h. Then the reaction mixture was combined with 10 mL MeOH, filtered off and evaporated down. The residue was purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 3-(1-{5-[hydroxy-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-yl)-methyl]-pyridazin-3-yl}-piperidin-4-yl)-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 0.049 mmol, 0.13 g | OC(C=1C=C(N=NC1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O)C2=CC1=C(NC(O1)=O)C(=C2)C | C28H30N6O5
reactant | MeOH | 10 mL | CO | CH4O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | manganese(IV)-oxide | 12 mmol, 1.0 g | [O-2].[Mn+4].[O-2]
catalyst | manganese(IV)-oxide | 500 mg | [O-2].[Mn+4].[O-2]
product | 7-methoxy-3-{1-[5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyridazin-3-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | COC1=CC2=C(NC(N(CC2)C2CCN(CC2)C=2N=NC=C(C2)C(=O)C2=CC3=C(NC(O3)=O)C(=C2)C)=O)C=C1 | C28H28N6O5
